US08383637B2
N-[3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide
A mixture of N-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide (0.0045 mol) in methanol (100 mL) was hydrogenated with 10% Pd/C (0.5 g) as a catalyst in the presence of thiophene solution (1 mL). After uptake of H2 gas (3 equiv.), the reaction mixture was filtered over Dicalite and the filtrate was evaporated to yield the title compound as a residue.

reactant | N-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide | 0.0045 mol | [N+](=O)([O-])C1=C(C=C(OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)C=C1)CNCCC | C22H23N3O5S
reactant | thiophene | 1 mL | S1C=CC=C1 | C4H4S
reactant | Dicalite | O=[Si]=O | O2Si
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-[3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-benzenesulfonamide | NC1=C(C=C(OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)C=C1)CNCCC | C22H25N3O3S
